US07456164B2
4-methyl-2-[4-(4-(3-pyrrolidin-1-ylpropoxy)phenyl)tetrahydro-2H-pyran-4-yl]-1,3-thiazole
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbothioamide (100 mg, 0.29 mmol), chloroacetone (46 μL, 0.57 mmol) and ethanol (5 mL) were combined and heated at reflux for 18 hours. The reaction mixture was concentrated in vacuo to give a cream coloured solid. This was dissolved in dichloromethane (100 mL) and washed with saturated NaHCO3 solution (50 mL). The organic extract was dried using Na2SO4, filtered and concentrated in vacuo. The compound was purified by column chromatography using 15 g of silica gel, eluting with dichloromethane:methanol:ammonia (97:3:0.3) to dichloromethane:methanol:ammonia (94:6:0.6) to give the title compound as a white solid (68 mg, 61%). 1H NMR (400 MHz, CDCl3) δ7.3 (d, 2H), 6.9 (d, 2H), 6.75 (s, 1H), 4.0 (t, 2H), 3.83 (m, 2H), 3.7 (m, 2H), 2.75-2.58 (m, 8H), 2.4 (s, 3H), 2.35 (m, 2H), 2.03 (m, 2H), 1.8 (m, 4H)

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbothioamide | 0.29 mmol, 100 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(N)=S | C19H28N2O2S
reactant | chloroacetone | 0.57 mmol, 46 μL | ClCC(C)=O | C3H5ClO
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-methyl-2-[4-(4-(3-pyrrolidin-1-ylpropoxy)phenyl)tetrahydro-2H-pyran-4-yl]-1,3-thiazole | 68 mg, 61% | CC=1N=C(SC1)C1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C22H30N2O2S
